US06326369B1
8-(4,5,6,7-Tetramethoxy-2-phenylindan-2-yl)octanal
To a solution of oxalyl chloride (0.394 ml) in THF (36 ml) was dropwise added a solution of dimethylsulfoxide (468 mg) in THF (2.4 ml) at −70° C. or under nitrogen atmosphere. After the reaction mixture was stirred for 10 min, a solution of 8-(4,5,6,7-tetramethoxy-2-phenylindan-2-yl)octanol (1.00 g) in THF (12 ml) was dropwise added to the reaction mixture at −70° C. or under. After being stirred for 15 min, the reaction mixture was stirred at between −60° C. and −50° C. for 1 hr, to which triethylamine (2.30 ml) was dropwise added. The reaction mixture was allowed to warm to 0° C. and stirred for 20 min, diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=4:1) to yield the entitled compound (985 mg) as an oil.

reactant | oxalyl chloride | 0.394 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 468 mg | CS(=O)C | C2H6OS
reactant | 8-(4,5,6,7-tetramethoxy-2-phenylindan-2-yl)octanol | 1.00 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)(C1=CC=CC=C1)CCCCCCCCO | C27H38O5
reactant | triethylamine | 2.30 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 36 ml | C1CCOC1 | C4H8O
solvent | THF | 2.4 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 8-(4,5,6,7-Tetramethoxy-2-phenylindan-2-yl)octanal | 985 mg | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)(C1=CC=CC=C1)CCCCCCCC=O | C27H36O5
